US05716953
N-(tert-butoxycarbonyl)-D-phenylalanine
Di-tert-butyldicarbonate (4,32 g) was added to a solution of D-phenylalanine (3 g) in a mixture of dioxan/water (2:1, 54 ml) and sodium hydroxide 1N (18 ml). The mixture was stirred at 23° for 3 h, dioxan was evaporated in vacuo and the chilled water phase was extracted with ethyl acetate (30 ml). The water solution was acidified at pH=3 by the addition of solid citric acid and extracted with ethyl acetate (2×30 ml). The organic layer was washed with brine (30 ml), dried and evaporated to give the crude title compound as an oil (4,3 g). 1 H-NMR (CDCl3):7.4-7.1 (m),5.0-4.5(bm), 3.3-2.7(bm), 1.4(s)

reactant | Di-tert-butyldicarbonate | 4,32 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | D-phenylalanine | 3 g | N[C@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
solvent | dioxan water | 54 ml | O1CCOCC1.O
solvent | sodium hydroxide | 1N, 18 ml | [OH-].[Na+]
product | N-(tert-butoxycarbonyl)-D-phenylalanine | 4,3 g | C(C)(C)(C)OC(=O)N[C@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
